US05068403
Dihydroxy-(5-bromo-2-fluorophenyl)-borane
A solution of 2,4-dibromofluorobenzene (12.7 g, containing 30% 3,4-dibromofluorobenzene) in dry tetrahydrofuran (THF) (10 ml) is added over 5 min to a stirred suspension of magnesium turnings (1.15 g) in dry THF (50 ml) under an atmosphere of nitrogen and cooled in a water bath. After 1 hour, when all the magnesium has reacted, this reagent is added over 20 min to a stirred solution of trimethoxyborane (7 ml) in dry diethyl ether (80 ml) under an atmosphere of nitrogen and cooled at -78° C. The mixture is stirred at -78° C. for a further 15 min. and glacial acetic acid (6 ml) added followed by water (50 ml). The mixture is warmed to room temperature, extracted with diethyl ether (x3), washed with water, dried and the solvent evaporated under reduced pressure. The residue is stirred with carbon tetrachloride (30 ml) and then cooled at 0° C. The crystals of dihydroxy-(5-bromo-2-fluorophenyl)-borane are filtered off and washed with a little carbon tetrachloride. Yield 2.8 g m.pt. 173°-174° C.

reactant | 2,4-dibromofluorobenzene | 12.7 g | BrC1=C(C=CC(=C1)Br)F | C6H3Br2F
reactant | magnesium | 1.15 g | [Mg] | Mg
reactant | trimethoxyborane | 7 ml | COB(OC)OC | C3H9BO3
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | water | 50 ml | O | H2O
product | Dihydroxy-(5-bromo-2-fluorophenyl)-borane | OB(C1=C(C=CC(=C1)Br)F)O | C6H5BBrFO2
